### ISSUE TITLE
GreensOpenProblems/40: `variants.all_n` uses `atTop` on `ℝ≥0∞`, which means "eventually `⊤`", not "tends to ∞"

### ISSUE THREAD

**Issue by Kuberwastaken** [google-deepmind/formal-conjectures#5006]
## Summary

`green_40.variants.all_n` uses `Filter.atTop` as the target filter for a function into `ℝ≥0∞`.
`ℝ≥0∞` has a greatest element, so `atTop` there is the principal ultrafilter at `⊤` — the
statement says "`f_all r = ⊤` for all sufficiently large `r`", not "`f_all r → ∞`". The
docstring asks the latter, and the file's two sibling declarations state it correctly with
`𝓝 ⊤`.

https://github.com/google-deepmind/formal-conjectures/blob/638da20efd8eeeed2993fc2550fc596dc90c1ce8/FormalConjectures/GreensOpenProblems/40.lean#L151-L154

```lean
noncomputable def f_all (r : ℕ) : ℝ≥0∞ :=
  limsup (fun n ↦ minDensity n r) atTop

/-- Does $f_{\text{all}}(r) \to \infty$? [Gr24] -/
@[category research open, AMS 5 94]
theorem green_40.variants.all_n : answer(sorry) ↔ Tendsto f_all atTop atTop := by
  sorry
```

against, in the same file,

```lean
/-- Does $f(r) \to \infty$? [Gr24]-/
theorem green_40 : answer(sorry) ↔ Tendsto f atTop (𝓝 ⊤) := by sorry

/-- Does $\tilde{f}(r) \to \infty$? [Gr24] -/
theorem green_40.variants.arbitrary_subsets : answer(sorry) ↔ Tendsto f_tilde atTop (𝓝 ⊤) := by
  sorry
```

`f`, `f_tilde` and `f_all` all have codomain `ℝ≥0∞`; only `variants.all_n` uses `atTop` on the
right.

## Proof

`atTop = ⨅ a, 𝓟 (Ici a) ≤ 𝓟 (Ici ⊤) = 𝓟 {⊤} = pure ⊤`, and `⊤` is the greatest element, so
equality holds. Machine-checked against Mathlib v4.27.0 (`lean -DautoImplicit=false
-DrelaxedAutoImplicit=false -DwarningAsError=true`, exit 0, no `sorry`):

```lean
theorem atTop_ennreal_eq : (atTop : Filter ℝ≥0∞) = pure ⊤ := by
  rw [(isTop_top (α := ℝ≥0∞)).atTop_eq]
  have : Set.Ici (⊤ : ℝ≥0∞) = {⊤} := by
    ext x; simp only [Set.mem_Ici, Set.mem_singleton_iff, top_le_iff]
  rw [this, principal_singleton]

theorem tendsto_atTop_ennreal_iff {α : Type*} (l : Filter α) (g : α → ℝ≥0∞) :
    Tendsto g l (atTop : Filter ℝ≥0∞) ↔ ∀ᶠ x in l, g x = ⊤ := by
  rw [atTop_ennreal_eq, tendsto_pure]

/-- The two are not equivalent: eventual equality implies the `𝓝 ⊤` form, not conversely. -/
theorem tendsto_nhds_top_of_eventually {α : Type*} (l : Filter α) (g : α → ℝ≥0∞)
    (h : ∀ᶠ x in l, g x = ⊤) : Tendsto g l (𝓝 ⊤) :=
  tendsto_nhds_of_eventually_eq h
```

So `variants.all_n` asks whether `f_all` is *eventually literally `⊤`* — strictly stronger than,
and different from, divergence to infinity. Nothing in Green's Problem 40 suggests the stronger
reading; his text asks "Does *f*(*r*) → ∞?" and notes for the non-linear variant that
"*f̃*(2) = 1 is known, but *f̃*(*r*) → ∞ still possible", i.e. the topological reading throughout.

## Suggested fix

Replace the target filter with `𝓝 ⊤`, matching `green_40` and `variants.arbitrary_subsets`:

```lean
theorem green_40.variants.all_n : answer(sorry) ↔ Tendsto f_all atTop (𝓝 ⊤) := by
  sorry
```

PR opened.

## What is *not* claimed

Green's Problem 40 is untouched: whether `f(r) → ∞` (and the same for `f̃` and `f_all`) remains
open. This is a report about the filter used in one Lean declaration.

## Duplicate check

Offline sweep of all 1747 issues and 3237 PRs (with per-PR file lists), matched on `green_40`,
"Green 40", `f_all`, `ENNReal`, `Tendsto atTop atTop`, and on the path
`FormalConjectures/GreensOpenProblems/40.lean`: no issue, and the only PRs touching the file are
the feature PR #3947 that introduced it, #4312 (notation) and #4419 (links a formal proof for
`f_tilde_le_f`). Not in #4896, #4923 or #4927.

## Relationship to the C₅[K₄] campaign

Found while auditing `research open` declarations in the non-Wikipedia collections:

https://github.com/Kuberwastaken/c5-k4/blob/aa598efc894f2ab9628ccd8019b41318f20111ac/results/expansion/live-search-2026-08-15/other-corpora-scan.md

## AI assistance disclosure

Prepared with AI assistance (Claude, Anthropic) for the audit, the Lean witnesses and drafting.
The submitter reviewed the declaration, the proof, and the repair, and takes responsibility for
the submission.

### Choose either option
- [x] I plan on working on this issue
- [ ] This issue is up for grabs: I would like to see this misformalization fixed by somebody else
